US04891363
dl-3-{5-[(cis-3-Heptadecylcarbamoylthiotetrahydropyran-2-yl)methoxycarbonylamino]pentyl}thiazolium bromide
600 mg of dl-[cis-3-(N-heptadecylcarbamoylthio)tetrahydropyran-2-ylmethyl]N-(5-bromopentyl)carbamate (prepared as described in Preparation 42) were dissolved in 1 ml of toluene, and then 0.68 ml of thiazole were added to the resulting mixture. The mixture was then heated on an oil bath kept at 80° C. for 64 hours. At the end of this time, the reaction mixture was evaporated to dryness under reduced pressure, and the residue was subjected to column chromatography through 15 g of silica gel. 595 mg of the title compound were obtained as a white powder, melting at 122°-125° C., from the fractions eluted with mixtures of methylene chloride and methanol ranging from 9:1 to 4:1 by volume.

reactant | [cis-3-(N-heptadecylcarbamoylthio)tetrahydropyran-2-ylmethyl]N-(5-bromopentyl)carbamate | C(CCCCCCCCCCCCCCCC)NC(=O)S[C@@H]1[C@@H](OCCC1)COC(NCCCCCBr)=O | C30H57BrN2O4S
reactant | thiazole | 0.68 ml | S1C=NC=C1 | C3H3NS
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | 3-{5-[(cis-3-Heptadecylcarbamoylthiotetrahydropyran-2-yl)methoxycarbonylamino]pentyl}thiazolium bromide | 595 mg | [Br-].C(CCCCCCCCCCCCCCCC)NC(=O)S[C@@H]1[C@@H](OCCC1)COC(=O)NCCCCC[N+]1=CSC=C1 | InChI=1S/C33H59N3O4S2.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-17-23-35-33(38)42-31-21-20-26-39-30(31)28-40-32(37)34-22-18-16-19-24-36-25-27-41-29-36;/h25,27,29-31H,2-24,26,28H2,1H3,(H-,34,35,37,38);1H/t30-,31-;/m0./s1
